US06759553B1
1315 g of a 40% strength aqueous sodium sarcosinate solution (pH 14) were introduced into a 2 1 three-necked flask having a mechanical stirrer, heating bath, reflux condenser and gas inlet tube and the mixture was adjusted to pH 9 by introduction of carbon dioxide gas. After heating the solution to 75° C., 338 g of a 50% strength aqueous cyanamide solution were added in the course of 4 hours. The temperature was kept constant at 75° C. during the entire addition period. The pH remained between 9 and 10 without introduction of further CO2 gas. After the addition of cyanamide, the reaction solution was stirred for 2 hours and then cooled to 35° C. The precipitated creatine was filtered off, washed with water and dried. 480 g of creatine monohydrate having a crystal yield of 75% were obtained.

reactant | sodium sarcosinate | pH 14 | N(C)CC(=O)[O-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | cyanamide | N#CN | CH2N2
product | creatine monohydrate | 480 g | O.O=C(O)CN(C)C(N)=N | InChI=1S/C4H9N3O2.H2O/c1-7(4(5)6)2-3(8)9;/h2H2,1H3,(H3,5,6)(H,8,9);1H2
